US07989461B2
Diethyl 2-((2-oxo-1,2-dihydropyridin-3-ylamino)methylene)malonate (7.50 g, 26.8 mmol) was dissolved in DMF (30 ml) and treated with potassium carbonate (7.40 g, 53.5 mmol) and 4-methoxybenzyl chloride (5.45 ml, 40.1 mmol). The mixture was stirred at ambient temperature overnight. The reaction was diluted with water (150 ml) and the solid that crashed out was collected by suction filtration. The solid was washed with water and dried to give diethyl 2-((1-(4-methoxybenzyl)-2-oxo-1,2-dihydropyridin-3-ylamino)methylene)malonate (9.00 g, 84.0% yield) as a light green solid. MS (M+H)+ 401.

reactant | Diethyl 2-((2-oxo-1,2-dihydropyridin-3-ylamino)methylene)malonate | 26.8 mmol, 7.50 g | O=C1NC=CC=C1NC=C(C(=O)OCC)C(=O)OCC | C13H16N2O5
reactant | potassium carbonate | 53.5 mmol, 7.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxybenzyl chloride | 40.1 mmol, 5.45 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | 150 ml | O | H2O
product | diethyl 2-((1-(4-methoxybenzyl)-2-oxo-1,2-dihydropyridin-3-ylamino)methylene)malonate | 9.00 g, 84.0% yield | COC1=CC=C(CN2C(C(=CC=C2)NC=C(C(=O)OCC)C(=O)OCC)=O)C=C1 | C21H24N2O6
